US06521666B1
MeSO2Cl (24 μL) was added to a solution of N-(4-amino-2-chlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine methyl ester (56.0 mg) in anhydrous CH2Cl2 (1 mL) containing DIEA (66.6 μL). The resulting mixture was stirred at room temperature under N2 for 3 h and diluted with CH2Cl2, washed with 1N HCl, water, dried (MgSO4) and evaporated. The residue was purified through a silica gel column using CH2Cl2 as an eluent to give N-[2-chloro-4-(N,N-dimethanesulfonylamino)benzoyl]-4-(2-methoxyphenyl)-L-phenylalanine methyl ester (59.4 mg). ESMS: m/z 595 (MH+).

reactant | MeSO2Cl | 24 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(4-amino-2-chlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine methyl ester | 56.0 mg | COC([C@@H](NC(C1=C(C=C(C=C1)N)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)OC)=O | C24H23ClN2O4
reactant | DIEA | 66.6 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-[2-chloro-4-(N,N-dimethanesulfonylamino)benzoyl]-4-(2-methoxyphenyl)-L-phenylalanine methyl ester | 59.4 mg | COC([C@@H](NC(C1=C(C=C(C=C1)N(S(=O)(=O)C)S(=O)(=O)C)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)OC)=O | C26H27ClN2O8S2
